US04472578
In 4 ml of pyridine were dissolved 200 mg of ethyl 5-chloroacetoxybenzo[a]phenazine-6-carboxylate and 220 mg of morpholine, and the solution was heated at 80°-100° C., for 3 hours. The reaction mixture was evaporated to dryness under reduced pressure. Water was added, and the precipitated solid was collected to give 130 mg (71.1% yield) of 5-hydroxy-6-morpholinocarbonylbenzo[a]phenazine as red amorphous powder, m.p. 223°-225° C., Anal. Calcd. (%) for C21H17N2O3 : C, 70.18; H, 4.77; N, 11.69; Found: C, 69.94; H, 4.86; N, 11.86

reactant | ethyl 5-chloroacetoxybenzo[a]phenazine-6-carboxylate | 200 mg | ClCC(=O)OC1=C2C(=C3N=C4C=CC=CC4=NC3=C1C(=O)OCC)C=CC=C2 | C21H15ClN2O4
reactant | morpholine | 220 mg | N1CCOCC1 | C4H9NO
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 5-hydroxy-6-morpholinocarbonylbenzo[a]phenazine | 130 mg, 71.1% yield | OC1=C2C(=C3N=C4C=CC=CC4=NC3=C1C(=O)N1CCOCC1)C=CC=C2 | C21H17N3O3
